US09284323B2
(S)-ethyl 2-tert-butoxy-2-(4,5,7-trifluoro-1-hydroxy-3-methylnaphthalen-2-yl)acetate was prepared in a similar way as (S)-ethyl 2-tert-butoxy-2-(6-chloro-4-fluoro-1-hydroxy-3-methylnaphthalen-2-yl)acetate in Example 7 except (S)-ethyl 2-tert-butoxy-2-(5,7-difluoro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate was used instead of (S)-ethyl 2-tert-butoxy-2-(6-chloro-1-hydroxy-3-methylnaphthalen-2-yl)acetate.

reactant | (S)-ethyl 2-tert-butoxy-2-(6-chloro-4-fluoro-1-hydroxy-3-methylnaphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C(=C1C)F)Cl)O | C19H22ClFO4
reactant | (S)-ethyl 2-tert-butoxy-2-(5,7-difluoro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC(=CC(=C2C=C1C)F)F)OS(=O)(=O)C(F)(F)F | C20H21F5O6S
product | (S)-ethyl 2-tert-butoxy-2-(4,5,7-trifluoro-1-hydroxy-3-methylnaphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC(=CC(=C2C(=C1C)F)F)F)O | C19H21F3O4
